US07960552B2
To a solution of ethyl 5-cyclobutyl-3-{[(1,1-dimethylethyl)oxy]methyl}-4-isoxazole carboxylate (1.40 g, 5.48 mmol) in dichloromethane (250 mL) was added trifluoroacetic acid (250 mL, 3.25 mol). The solution was stirred for approximately 30 minutes and then concentrated. The residue was taken up with ethyl acetate and poured into water. The mixture was stirred as solid sodium carbonate was added until the pH was basic. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated. The residue was purified by chromatography (silica gel, 20% ethyl acetate in hexanes) to afford ethyl 5-cyclobutyl-3-(hydroxymethyl)-4-isoxazolecarboxylate (848 mg, 69%). 1H-NMR (400 MHz, DMSO-d6) δ 5.27 (t, J=6 Hz, 1H), 4.63 (d, J=6 Hz, 2H), 4.21 (q, J=7 Hz, 2H), 4.18-4.08 (m, 1H), 2.33-2.27 (m, 4H), 2.10-2.00 (m, 1H), 1.90-1.83 (m, 1H), 1.26 (t, J=7 Hz, 3H).

reactant | ethyl 5-cyclobutyl-3-{[(1,1-dimethylethyl)oxy]methyl}-4-isoxazole carboxylate | 5.48 mmol, 1.40 g | C1(CCC1)C1=C(C(=NO1)COC(C)(C)C)C(=O)OCC | C15H23NO4
reactant | trifluoroacetic acid | 3.25 mol, 250 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | ethyl 5-cyclobutyl-3-(hydroxymethyl)-4-isoxazolecarboxylate | 848 mg, 69% | C1(CCC1)C1=C(C(=NO1)CO)C(=O)OCC | C11H15NO4
